US07135466B2
N-(2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}ethyl)-N-(4-methoxyphenyl)amine
N1-(4-Methoxyphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide (90 mg) was dissolved in tetrahydrofuran (10 ml) to prepare a solution. A borane-tetrahydrofuran complex (1.0 M solution: 0.98 ml) was then added to the solution, and the mixture was heated under reflux for 3 hr. 1 N Hydrochloric acid was added thereto, and the mixture was further heated under reflux for 30 min. A 5% aqueous sodium hydroxide solution was added to the reaction solution, the mixture was extracted with chloroform, and the extract was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development to give the title compound (52 mg, yield 60%).

reactant | N1-(4-Methoxyphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide | 90 mg | COC1=CC=C(C=C1)NC(COC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C26H24N2O6
reactant | Hydrochloric acid | 1 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}ethyl)-N-(4-methoxyphenyl)amine | 52 mg, yield 60% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(OCCNC2=CC=C(C=C2)OC)C=C1 | C26H26N2O5
